US04851410
(a) Methyl 1-[3-(2-dioxolanyl)-propoxy]-pyrazole-4-carboxylate
21.8 g of sodium hydride (80 percent strength suspension in mineral oil) is introduced into 1.5 l of dry dimethylformamide, and 90 g of methyl 1-hydroxypyrazole-4-carboxylate are added a little at a time to the stirred mixture. When the evolution of hydrogen is complete, stirring is continued for 30 minutes, after which 95.5 g of 2-(3-chloropropyl)-1,3-dioxolane are added dropwise and the mixture is kept at 120° C. for 10 hours. Thereafter, the dimethylformamide is distilled off under reduced pressure, the residue is taken up in methyl tertbutyl ether, and the solution is washed with water, boiled and evaporated down to give 151 g of a slightly colored oil which crystallizes completely. M.p. 40°-42° C. NMR (CDCl3): 7.82 s [1]; 7.70 s [1]; 4.50 t [1]; 4.39 t [2]; 3.85-3.95 m [4]; 3.80 s [3]; 1.75-1.95 m [4].

reactant | sodium hydride | 21.8 g | [H-].[Na+]
reactant | methyl 1-hydroxypyrazole-4-carboxylate | 90 g | ON1N=CC(=C1)C(=O)OC | C5H6N2O3
reactant | hydrogen | [H][H] | H2
reactant | 2-(3-chloropropyl)-1,3-dioxolane | 95.5 g | ClCCCC1OCCO1 | C6H11ClO2
solvent | dimethylformamide | 1.5 l | CN(C=O)C | C3H7NO
product | Methyl 1-[3-(2-dioxolanyl)-propoxy]-pyrazole-4-carboxylate | O1C(OCC1)CCCON1N=CC(=C1)C(=O)OC | C11H16N2O5
